### PR TITLE
[Merged by Bors] - feat: `a < b + c ↔ a < b ∨ ∃ d < c, a = b + d`

### PR DESCRIPTION
**Pull request by vihdzp**
...and analogous results on `CanonicallyOrderedAdd`.

---

- [x] depends on: #29084

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean [hunk 1]
```diff
@@ -18,3 +18,44 @@ variable {ι α : Type*} [AddCommMonoid α] [LinearOrder α] [OrderBot α] [Cano
...
+theorem lt_add_iff_lt_or_exists_lt [AddLeftReflectLT α] [IsLeftCancelAdd α] {a b c : α} :
+    a < b + c ↔ a < b ∨ ∃ d < c, a = b + d := by
+  obtain h | h := lt_or_ge a b
+  · have : a < b + c := h.trans_le (le_self_add ..)
+    tauto
+  · obtain ⟨a, rfl⟩ := exists_add_of_le h
+    simp
+
+theorem forall_lt_add [AddLeftReflectLT α] [IsLeftCancelAdd α] {b c : α} {P : α → Prop} :
+    (∀ a < b + c, P a) ↔ (∀ a < b, P a) ∧ (∀ a < c, P (b + a)) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: What about the other direction?
```
theorem how_to_name_this? [AddRightReflectLT α] [IsRightCancelAdd α] {b c : α} {P : α → Prop} :
    (∀ a < b + c, P a) ↔ (∀ a < b, P (a + c)) ∧ (∀ a < c, P a) := by
```

Comment (vihdzp) [reply Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: I think that will require commutativity of addition, since we don't have an `a ≤ b + a` analog of `CanonicallyOrderedAdd`. Maybe I can name these versions `forall_lt_add_left` and `forall_lt_add_right`? With the right one being (I think) the one I've currently written down.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: What about `forall_lt_add_iff_lt_left`/`forall_lt_add_iff_lt_right`, where the `_left` version is your current one?

Comment (vihdzp) [reply Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: So, even though we now have `a ≤ b + a` as a field on `CanonicallyOrderedAdd`, this still doesn't work. We'd need a right-sided version of `ExistsAddOfLE`, or to just assume commutativity.

I have no use for these alternate versions of the theorem, so can we just leave them out until someone needs them?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: Well... I've needed them in the past. Why not just add them assuming commutativity?

Comment (vihdzp) [reply Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: Sure, that'll work.

Comment (vihdzp) [reply Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: There you go. I'm a bit unsure about naming so please check that carefully!

File: Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean [hunk 2]
```diff
@@ -33,3 +33,83 @@ theorem range_add_eq_image_Ici : range (fun x ↦ f (x + k)) = f '' Ici k :=
...
 
 end Set
+
+section LinearOrder
+variable {α : Type*} [LinearOrder α] {P : α → Prop}
+
+section Add
+variable [Add α] [CanonicallyOrderedAdd α]
+
+theorem lt_add_iff_lt_or_exists_lt_left [AddLeftReflectLT α] [IsLeftCancelAdd α] {a b c : α} :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/Canonical/Basic.lean]: How about
```suggestion
theorem lt_add_iff_lt_left_or_exists_lt [AddLeftReflectLT α] [IsLeftCancelAdd α] {a b c : α} :
```
where `left` refers to `b`?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge
